US07238716B2
A mixture of ethyl 3-methyl-1H-pyrazole-4-carboxylate (7.95 g), 2-chloropyridine (5 ml), sodium hydride (0.60%, oil, 2.32 g) and N,N-dimethylformamide (150 ml) was stirred overnight at 180° C. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ethyl 3-methyl-1-(2-pyridyl)-1H-pyrazole-4-carboxylate (8.31 g, yield 73%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:9, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 79-80° C.

reactant | ethyl 3-methyl-1H-pyrazole-4-carboxylate | 7.95 g | CC1=NNC=C1C(=O)OCC | C7H10N2O2
reactant | 2-chloropyridine | 5 ml | ClC1=NC=CC=C1 | C5H4ClN
reactant | sodium hydride | 2.32 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-methyl-1-(2-pyridyl)-1H-pyrazole-4-carboxylate | 8.31 g, yield 73% | CC1=NN(C=C1C(=O)OCC)C1=NC=CC=C1 | C12H13N3O2
